US05705499
a) 8-(trans-2-Carboethoxyethen-1-yl)-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
2-Chloro-5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.6 g, 1.45 mmol) was coupled with ethyl acrylate (0.19 mL, 1.75 mmol) by a procedure analogous to that described in Example 1h to give 0.42 g of the title compound as beige crystals, m.p. 192°-193° C. (ethyl acetate/hexanes). Hydrogenation, as described in Example 15, gave 0.22 g of a mixture of reduction products, which was used directly in the next step.

reactant | 2-Chloro-5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 1.45 mmol, 0.6 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)I)=O)C | C14H12ClIN4O
reactant | ethyl acrylate | 1.75 mmol, 0.19 mL | C(C=C)(=O)OCC | C5H8O2
product | 8-(trans-2-Carboethoxyethen-1-yl)-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.42 g | C(=O)(OCC)/C=C/C1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)Cl)CC)N=C1 | C19H19ClN4O3
